US07517899B2
A mixture of (2S,3S)-3-(3-fluorophenyl)-3-(3-iodo-1H-indol-1-yl)propane-1,2-diol (0.25 g, 0.61 mmol), 2-fluorobenzeneboronic acid (0.12 g, 0.85 mmol), and potassium phosphate (0.39 g, 1.83 mmol) in N,N-dimethylformamide (10 mL) was degassed with nitrogen for 5 minutes then a catalytic amount (0.02 g) of [1,4-bis-(diphenylphosphine)butane]palladium (II) dichloride was added. The solution was heated to 90° C. for 3 hours then cooled and poured into 100 mL of water. The aqueous mixture was extracted 3 times with ethyl acetate and the combined extracts were then washed 2 times with water. The ethyl acetate was dried by filtration through a plug of silica gel then concentrated. The residue was purified by Biotage chromatography (FlasH40i, silica, 40% ethyl acetate/hexane) to yield 0.14 g of (2S,3S)-3-(3-fluorophenyl)-3-{3-[2-fluorophenyl]-1H-indol-1-yl}propane-1,2-diol as an oil, which was used in the next step without further purification.

reactant | (2S,3S)-3-(3-fluorophenyl)-3-(3-iodo-1H-indol-1-yl)propane-1,2-diol | 0.61 mmol, 0.25 g | FC=1C=C(C=CC1)[C@@H]([C@@H](CO)O)N1C=C(C2=CC=CC=C12)I | C17H15FINO2
reactant | 2-fluorobenzeneboronic acid | 0.85 mmol, 0.12 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium phosphate | 1.83 mmol, 0.39 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (2S,3S)-3-(3-fluorophenyl)-3-{3-[2-fluorophenyl]-1H-indol-1-yl}propane-1,2-diol | 0.14 g | FC=1C=C(C=CC1)[C@@H]([C@@H](CO)O)N1C=C(C2=CC=CC=C12)C1=C(C=CC=C1)F | C23H19F2NO2
